US07462738B2
A flask is equipped with a magnetic stirrer and is charged with 3N HCl (100 ml) and (R)-methyl 3-(carbamoylmethyl)-5-methylhexanoate (20 g). The mixture is stirred for 1-10 hours at a temperature of 20° C. to 25° C., followed by quenching with 47% NaOH to pH 3. The resulting slurry is filtered, washed with water, and dried to obtain a white solid of (R)-3-(carbamoylmethyl)-5-methylhexanoic acid.

reactant | (R)-methyl 3-(carbamoylmethyl)-5-methylhexanoate | 20 g | C(N)(=O)C[C@H](CC(=O)OC)CC(C)C | C10H19NO3
solvent | HCl | 3N, 100 ml | Cl | ClH
product | (R)-3-(carbamoylmethyl)-5-methylhexanoic acid | C(N)(=O)C[C@H](CC(=O)O)CC(C)C | C9H17NO3
